US03984555
16.0 g (0.08 moles) of N-bromosuccinimide, 14.0 g (0.07 moles) of 2-propenyl-6-methyl-4(3H)-quinazolone and 0.05 g of dibenzoylperoxide in 500 mls. of carbon tetrachloride are boiled under a reflux for 16 hours. The reaction mixture is evaporated to dryness in vacuo and the succinimide is remoed from the residue by boiling out with water several times. The residue which has been purified in this way is then purified by dissolving once again in a 9:1 mixture of methyl alcohol/chloroform and in this way one obtains 8.5 g (38% of theory) of 2-(3-bromopropenyl)-6-methyl-4(3H)-quinazolone with a melting point of 197°-198° C. c. 4.0 g (0.0144 moles) of 2-(3-bromopropenyl)-6-methyl-4(3H)-quinazolone are heated for 5 hours to 80° C with 5.4 g (0.0288 moles) of 1-(2-methoxyphenyl) piperazine in 50 mls. of dimethylformamide. The reaction mixture is then distributed between 10% aqueous ammonia and chloroform and the chloroform phase is evaporated to dryness after drying over calcined potassium carbonate. The residue is purified by crystallisation twice from ethyl acetate. In this way one obtains 5.4 g (96.5% of theory) of 2-(3-(1-(2-methoxyphenyl) piperazinyl-4) prop-2-en-1-yl)-6-methyl-4(3H)-quinazolone with a melting point of 169°-170° C. Using the same mode of operation, when choosing suitable initial materials, one obtains the piperazinylalkyl-4-(3H)-quinazolones described in Examples 1 to 24.

reactant | N-bromosuccinimide | 0.08 moles, 16.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-propenyl-6-methyl-4(3H)-quinazolone | 0.07 moles, 14.0 g | C(=CC)C1=NC2=CC=C(C=C2C(N1)=O)C | C12H12N2O
catalyst | dibenzoylperoxide | 0.05 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(3-bromopropenyl)-6-methyl-4(3H)-quinazolone | 8.5 g, 38% | BrCC=CC1=NC2=CC=C(C=C2C(N1)=O)C | C12H11BrN2O
